US07524843B2
Preparation of (E)-3-[6-((E)-but-2-enoylamino)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide
Crotonic anhydride (0.29 mL, 1.96 mmole) was added to a solution of (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide (0.16 g, 0.49 mmole) and sodium bicarbonate (0.20 g, 2.45 mmole) in THF (30 mL) at RT, and the reaction was heated at reflux under nitrogen. After 48 hr, the reaction was concentrated in vacuo and the residue was diluted with water and extracted with ethyl acetate. The combined extracts were dried over Na2SO4 and concentrated in vacuo to afford the title compound (0.10 g, 53%) as a tan solid: MS (ES) m/e 389 (M+H)+.

reactant | Crotonic anhydride | 1.96 mmole, 0.29 mL | C(\C=C\C)(=O)OC(\C=C\C)=O | C8H10O3
reactant | (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 0.49 mmole, 0.16 g | NC1=CC=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C | C19H20N4O
reactant | sodium bicarbonate | 2.45 mmole, 0.20 g | C([O-])(O)=O.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (E)-3-[6-((E)-but-2-enoylamino)pyridin-3-yl]-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 0.10 g, 53% | C(\C=C\C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C | C23H24N4O2
